US06096735
To a solution of 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-(4-formylbenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.29 g) in methanol (30 ml) are added o-toluizine (0.2 ml) and acetic acid until the mixture becomes pH 4. The mixture is heated with stirring at 50° C. for 8 hours, and thereto is added sodium cyanoborohydride (0.085 g) with ice-cooling, and the mixture is stirred for one hour. The mixture is evaporated to remove the methanol, and thereto is added water. The mixture is extracted with ethyl acetate, and the extract is washed with water, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol =100:1→50:1) to give 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-[4-(2-methylanilinomethyl)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.1 g) as colorless amorphous.

reactant | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-(4-formylbenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.29 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(C=C2)C=O)=O)CC(=O)N2CCN(CC2)C)C1 | C25H28ClN3O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.085 g | C(#N)[BH3-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-[4-(2-methylanilinomethyl)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.1 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(C=C2)CNC2=C(C=CC=C2)C)=O)CC(=O)N2CCN(CC2)C)C1 | C32H37ClN4O2
